US07550478B2
Step 1: (2S)-2-[(benzyloxy)methyl]-1,4-dioxane
(2R)-3-(benzyloxy)propane-1,2-diol (2.00 g, 11.0 mmol) and tetrabutylammonium bromide (708 mg, 2.20 mmol) were dissolved in 50 mL of 1,2-dichloroethane, then 50 mL of a 50% (w/w) aqueous sodium hydroxide solution was added quickly and the mixture was heated to 50° C. After 18 h, an additional 50 mL of 1,2-dichloroethane and 50 mL of 50% (w/w) sodium hydroxide solution was added. After 8 h, additional 50 mL of 1,2-dichloroethane was added. After 72 h, the mixture was diluted in diethyl ether, washed with water and brine, then dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography (silica, ethylacetate/hexanes) to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 7.26-7.35 (m, 5H); 4.51-4.56 (m, 2H); 3.72-3.82 (m, 4H); 3.67-3.71 (m, 1H); 3.58-3.64 (m, 1H); 3.38-3.48 (m, 3H).

reactant | (2R)-3-(benzyloxy)propane-1,2-diol | 11.0 mmol, 2.00 g | C(C1=CC=CC=C1)OC[C@@H](CO)O | C10H14O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
reactant | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
reactant | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
catalyst | tetrabutylammonium bromide | 2.20 mmol, 708 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2S)-2-[(benzyloxy)methyl]-1,4-dioxane | C(C1=CC=CC=C1)OC[C@@H]1OCCOC1 | C12H16O3
